US07615568B2
D. 3-[2-(cis-4-t-Butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide
Using a procedure analogous to Example 1-G, 2-(cis-4-t-butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoic acid and 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide gave the title compound as a white solid (2.68 g, 85%).

reactant | 2-(cis-4-t-butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoic acid | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OC1=C(C(=S)O)C=CC(=C1)C | C19H27NO4S
reactant | 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
product | 3-[2-(cis-4-t-Butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 2.68 g, 85% | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OC1=C(C(=S)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C30H34ClN5O4S
